US05604253
3-Trifluoroacetyl-5-methoxy-2-methylindole
To a 0° C. solution of 5-methoxy-2-methylindole (29.8 g, 185 mmol) in 80 mL of DMF was added trifluoroacetic anhydride (30 mL, 212 mmol) over 30 min. The resulting slurry was then poured into 1.2 L of water. The precipitate was filtered and dried under vacuum at 80° C. overnight to give 24.6 g of the title compound.

reactant | 5-methoxy-2-methylindole | 185 mmol, 29.8 g | COC=1C=C2C=C(NC2=CC1)C | C10H11NO
reactant | trifluoroacetic anhydride | 212 mmol, 30 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | water | 1.2 L | O | H2O
solvent | DMF | 80 mL | CN(C)C=O | C3H7NO
product | 3-Trifluoroacetyl-5-methoxy-2-methylindole | 24.6 g | FC(C(=O)C1=C(NC2=CC=C(C=C12)OC)C)(F)F | C12H10F3NO2
